US07211440B2
4,4,5,5,5-Pentafluoro-1-(2-thienyl)-1,3-pentanedione
2-Acetylthiophene (4.3 ml) was dissolved in dry toluene (40 ml). Sodium hydride (60%, 3.2 g) was added slowly and the mixture was stirred for 15 minutes. Ethyl pentafluoropropionate (13.44 g) was added and the stirring was continued overnight. Sulfuric acid (10%, 50 ml) was added and the phases were separated. The organic phase was washed with water (50 ml) and it was evaporated to dryness. The residue was distilled (b.p. 92–94° C./0.15 mbar) to give the product (9.0 g). 1H NMR (CDCl3): 6.50 (s, 1 H); 7.21 (dd, 1 H, J=3.9 & 4.9); 7.77 (dd, 1 H, J=1.1 & 4.9 Hz); 7.85 (dd, 1 H, J=1.1 & 3.9 Hz). IR (film): 1592 (C═O); 1202 (C—F).

reactant | 2-Acetylthiophene | 4.3 ml | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | Sodium hydride | 3.2 g | [H-].[Na+]
reactant | Ethyl pentafluoropropionate | 13.44 g | FC(C(C(=O)OCC)(F)F)(F)F | C5H5F5O2
reactant | Sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4,5,5,5-Pentafluoro-1-(2-thienyl)-1,3-pentanedione | 9.0 g | FC(C(CC(=O)C=1SC=CC1)=O)(C(F)(F)F)F | C9H5F5O2S
